US04125541
6-(4-Methoxyphenyl)hexyl iodide [VIa; Ar is 4-CH3OC6H4, R is H] was prepared from 16.3 g. of 6-(4-methoxyphenyl)hexyl bromide (Preparation C10) and 9.93 g. of sodium iodide in 325 ml. of 2-butanone, to give 19.3 g. of product as a pale yellow oil.

reactant | 6-(4-methoxyphenyl)hexyl bromide | COC1=CC=C(C=C1)CCCCCCBr | C13H19BrO
reactant | sodium iodide | [I-].[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 6-(4-Methoxyphenyl)hexyl iodide | COC1=CC=C(C=C1)CCCCCCI | C13H19IO
